US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-5-fluoro-N-(1H-pyrrol-1-yl)-4-pyrimidineamine was reacted with 4-isopropoxyaniline to produce 5-fluoro-N2-(4-isopropoxyphenyl)-N4-(1H-pyrrol-1-yl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 10.69 (s, 1H), 9.03 (s, 1H), 8.06 (d, 1H, J=3.5 Hz), 7.30 (d, 2H, J=9.3 Hz), 6.82 (t, 2H, J=2.3 Hz), 6.58 (d, 2H, J=9.3 Hz), 6.11 (t, 2H, J=2.3 Hz), 4.41 (sept, 1H, J=5.8 Hz), 1.18 (d, 6H, J=5.8 Hz). LCMS: ret. time: 21.21 min.; purity: 90%; MS (m/e): 328 (MH+).

reactant | 2-chloro-5-fluoro-N-(1H-pyrrol-1-yl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NN1C=CC=C1)F | C8H6ClFN4
reactant | 4-isopropoxyaniline | C(C)(C)OC1=CC=C(N)C=C1 | C9H13NO
product | 5-fluoro-N2-(4-isopropoxyphenyl)-N4-(1H-pyrrol-1-yl)-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)OC(C)C)NN1C=CC=C1 | C17H18FN5O
